US08877815B2
A mixture of (S)-1-tert-butyl 2-ethyl pyrrolidine-1,2-dicarboxylate (200 mg, 0.822 mmol) and HCl in 1,4-dioxane (4110 μl, 16.44 mmol) was allowed to stir for 1 hour. The reaction mixture was concentrated to give (S)-ethyl pyrrolidine-2-carboxylate hydrochloride; 1H NMR (400 MHz, CDCl3) δ ppm 1.32 (t, J=7.2 Hz, 3H) 2.00-2.22 (m, 3H) 2.39-2.48 (m, 1H) 3.49-3.67 (m, 2H) 4.29 (q, J=7.2 Hz, 3H) 9.09 (br s, 1H) 10.98 (br s, 1H).

reactant | (S)-1-tert-butyl 2-ethyl pyrrolidine-1,2-dicarboxylate | 0.822 mmol, 200 mg | N1([C@@H](CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C12H21NO4
reactant | HCl | Cl | ClH
reactant | 1,4-dioxane | 16.44 mmol, 4110 μl | O1CCOCC1 | C4H8O2
product | (S)-ethyl pyrrolidine-2-carboxylate hydrochloride | Cl.N1[C@@H](CCC1)C(=O)OCC | InChI=1S/C7H13NO2.ClH/c1-2-10-7(9)6-4-3-5-8-6;/h6,8H,2-5H2,1H3;1H/t6-;/m0./s1
